US08071581B2
Step 1: 5-(1-Methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine
5-Bromo-1H-pyrrolo[2,3-b]pyridine (1.0 g, 5.05 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole (1.17 g. 5.55 mmol) and Pd(dppf)2Cl2 (37 mg, 0.045 mmol) were placed in a N2 charged round bottom flask. DMA (6 mL) was added to the reaction vessel and the solution was bubbled with N2 for 10 minutes. K2CO3 (978 mg, 7.07 mmol) was dissolved in water (6 mL), bubbled with N2 and added to the reaction vessel while maintaining the temperature below room temperature with an ice/water bath. The reaction vessel was bubbled with additional N2 for 10 minutes, fitted with a vigeruex column and N2 line and heated to 75° C. overnight. The reaction was not complete; therefore, additional 1-Methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-1-pyrazole (1.0 g) and Pd(dppf)2Cl2 (124 mg) were added to the reaction. The solution was heated an additional 4 hours. After this period, water (12 mL) was added to the reaction vessel and the solution was heated for 1 hour at 60° C. The solution was transferred to a separatory funnel with dichloromethane (300 mL) and partitioned from the aqueous layer. The organic layer was dried over Na2SO4, concentrated down on silica gel and purified by flash chromatography (0-10% Methanol/dichloromethane gradient) to afford the title compound (780 mg, 78% yield). MS m/z=199 [M+H+]+

reactant | 5-Bromo-1H-pyrrolo[2,3-b]pyridine | 5.05 mmol, 1.0 g | BrC=1C=C2C(=NC1)NC=C2 | C7H5BrN2
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-pyrazole | 5.55 mmol, 1.17 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | DMA | 6 mL | CC(=O)N(C)C | C4H9NO
reactant | K2CO3 | 7.07 mmol, 978 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 6 mL | O | H2O
catalyst | Pd(dppf)2Cl2 | 0.045 mmol, 37 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(1-Methyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridine | 780 mg, 78% yield | CN1N=CC(=C1)C=1C=C2C(=NC1)NC=C2 | C11H10N4
